US05840732
i) Synthesis of 5-(ethylthiomethylene)thiazolidine-2,4-dione
To a suspension of 5.20 g of 5-(ethoxymethylene)thiazolidine-2,4-dione (1:1.71 mixture with thiazolidine-2,4-dione, about 13.9 mmol) in 50 ml of ethanol, 5.0 g (59 mmol) of ethanethiol sodium salt was added at room temperature, followed by stirring under heating conditions for 3 hours. After cooling, the reaction mixture was poured into water and adjusted to a pH level of about 2. The resulting precipitate was collected by filtration, washed with water and then with n-hexane/diethyl ether and dried to yield 1.38 g (52.0%, light yellow powder) of the desired product.

reactant | 5-(ethoxymethylene)thiazolidine-2,4-dione | about 13.9 mmol, 5.20 g | C(C)OC=C1C(NC(S1)=O)=O | C6H7NO3S
reactant | ethanethiol sodium salt | 59 mmol, 5.0 g | [Na].C(C)S
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(ethylthiomethylene)thiazolidine-2,4-dione | C(C)SC=C1C(NC(S1)=O)=O | C6H7NO2S2
